US07473711B2
4,4′-[(2S,3S)-Butane-2,3-diylbis(oxy)]bis[2-(trifluoromethyl)benzonitrile]
The NaH was suspended in 15 ml of dry THF at 0° C. under N2 gas, then (2R,3R)-2,3-butanediol (0.23 g, 2.46 mmol) was added, this mixture was stirred at 0° C. under N2 for 10 min before adding 4-fluoro-2-(trifluoromethyl)-benzonitrile (1.0 g, 5.18 mmol) The reaction mixture was stirred at 0° C. for 2 hours, then RT(room temperature) for 1 hour. It was quenched with 50 ml of distilled water, extracted with ethyl acetate (3×30 ml), the organic layer was washed with saturated NaHCO3 (three times), the solvent was removed to yield the crude product, it was purified by silica gel column with hexane:ethyl acetate=5:1 as the elute.

reactant | NaH | [H-].[Na+]
reactant | (2R,3R)-2,3-butanediol | 2.46 mmol, 0.23 g | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | 4-fluoro-2-(trifluoromethyl)-benzonitrile | 5.18 mmol, 1.0 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4,4′-[(2S,3S)-Butane-2,3-diylbis(oxy)]bis[2-(trifluoromethyl)benzonitrile] | C[C@@H]([C@H](C)OC1=CC(=C(C#N)C=C1)C(F)(F)F)OC1=CC(=C(C#N)C=C1)C(F)(F)F | C20H14F6N2O2
